Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
Cardiac catheterization (100% LAD s/p DES) ___

 
History of Present Illness:
Mr. ___ is a ___ y/o man with history of HTN, HLD, and BPH 
presenting with intermittent chest pain and jaw pain with 
exertion that improves with rest and found to have an NSTEMI. 

Patient reports that about 10 days ago, he experienced bilateral 
jaw pain and midstenal chest pain ___ while out for a walk. The 
pain resolved with rest. He denies radiation of pain to his 
arms, nausea, or diaphoresis. He continued to experience chest 
and jaw pain with exertion, so he presented to his PCP. EKG at 
PCP's office notable for TWI V2-V4 and patient was referred to 
___. At ___ first troponin was 0.20. Patient was then 
transferred to ___ for further management. On arrival to the 
ED, the patient denied any chest pain.

In the ED initial vitals were: 98.2 72 178/110 16 98% RA 
  
Exam notable for:
Cor: RRR. No m/r/g. 
Pulm: CTAB, Nonlabored respirations.  
Ext: No edema, cyanosis, or clubbing. 
Skin: No rash. No petechiae.

Labs notable for: 
1. BMP: Na 142, K 3.8, Cl 102, HCO3 25, BUN 17, Cr 1.3
2. CBC: WBC 12.2, Hb 14.5, plt 58
3. COAGS: INR 1.0, PTT 29.9
4. Trop-T 0.03
5. CK: 386, MB 9, Trop-T 0.04 
6. CK: 306, MB 10, Trop-T 0.04 

Images notable for:
EKG: Sinus rhythm at 67 bpm, TWI V1-V4

Patient was given: 
___ 00:26 IV Heparin 4000 UNITS 
___ 00:26 IV Heparin  ___ Started 1000 units/hr 

___ 00:59 PO Pravastatin   
___ 01:07 PO/NG Atorvastatin 80 mg  
___ 01:07 PO/NG Atenolol 25 mg  
___ 01:45 PO/NG Doxazosin 4 mg  
___ 01:47 IV Heparin 
___ 02:25 PO/NG Nefazodone 100 mg 
___ 02:25 PO Acetaminophen 1000 mg 
___ 02:27 IVF  NS  ___ Started 100 mL/hr
___ 10:48 PO/NG Aspirin 81 mg  
___ 14:29 PO/NG Nefazodone 200 mg 

Vitals on transfer: 98.7 66 151/79 18 97% RA 

He was taken directly to the cath lab, where he was found to 
have a 100% occlusion of the LAD s/p DES via RRA. 

On the floor, the patient recounts that above history and denies 
any chest pain, palpitations, shortness of breath at present. In 
addition, he does note that he has noticed bruising on his 
forearms in the past weeks without apparent injury. He has no 
complaints at present. 

REVIEW OF SYSTEMS: As per HPI, 10-point ROS otherwise negative.
 
Past Medical History:
Hypertension  
Dyslipidemia   
BPH
Depression
Dysphagia
Colonic adenoma

 
Social History:
___
Family History:
Mother- d. ___
Father- d. ___, HTN,HLD
Brother- HTN, HLD, CCY
Brother- ___, HTN, HLD
No family history of coronary artery disease. 
 
Physical Exam:
=========================
ADMISSION EXAM
=========================
VS: 97.9 116/80 67 16 95 ra 
GEN: Well appearing, in no acute distress
EYES: Anicteric sclerae, PERRL, EOMI
ENT: MMM
RESP: CTAB, no w/r/r
CV: RRR, no m/r/g
ABD: Soft, NTND, no hepatosplenomegaly
MSK: No peripheral edema
INTEG: No petechiae or ecchymoses
NEURO: AOx3, no focal deficits
PSYCH: Appropriate mood and affect
ACCESS: PIV

=========================
DISCHARGE EXAM
=========================
Vitals: 97.9 137/88 66 18 96 Ra  
GEN: Well appearing, sitting up in bed in no acute distress.
EYES: Anicteric sclerae, PERRL, EOMI
ENT: MMM.
RESP: CTAB, no w/r/r
CV: RRR, no m/r/g
ABD: Soft, NTND
MSK: No peripheral edema
INTEG: No petechiae or ecchymoses
NEURO: AOx3, no focal deficits
PSYCH: Appropriate mood and affect
 
Pertinent Results:
=================
ADMISISON LABS
=================
___ 11:40PM BLOOD WBC-12.2* RBC-4.63 Hgb-14.5 Hct-41.6 
MCV-90 MCH-31.3 MCHC-34.9 RDW-12.8 RDWSD-42.3 Plt Ct-58*#
___ 11:40PM BLOOD Neuts-60.8 ___ Monos-8.9 Eos-0.8* 
Baso-0.5 Im ___ AbsNeut-7.42* AbsLymp-3.49 AbsMono-1.08* 
AbsEos-0.10 AbsBaso-0.06
___ 11:40PM BLOOD ___ PTT-29.9 ___
___ 11:40PM BLOOD Glucose-107* UreaN-17 Creat-1.3* Na-142 
K-3.8 Cl-102 HCO3-25 AnGap-15
___ 11:40PM BLOOD cTropnT-0.03*
___ 11:40PM BLOOD Calcium-9.6 Phos-3.5 Mg-2.1

=================
PERTINENT RESULTS
=================
LABS
=================
___ 11:40PM BLOOD CK-MB-9
___ 11:40PM BLOOD cTropnT-0.03*
___ 05:00AM BLOOD CK-MB-10
___ 05:00AM BLOOD cTropnT-0.04*
___ 12:00PM BLOOD CK-MB-10 MB Indx-3.3 cTropnT-0.04*
___ 02:15AM BLOOD cTropnT-0.22*
___ 02:15AM BLOOD cTropnT-0.22*
___ 07:15AM BLOOD cTropnT-0.24*
___ 07:15AM BLOOD cTropnT-0.24*
___ 07:35AM BLOOD CK-MB-12* cTropnT-0.30*
===
___ 07:15AM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG
___ 07:15AM BLOOD HIV Ab-NEG
___ 07:15AM BLOOD HCV Ab-NEG
===
___ 07:15AM BLOOD PEP-PND IgG-1184 IgA-187 IgM-84

=================
IMAGING/STUDIES
=================
Cardiac catheterization (___):
Dominance: Left
* Left Main Coronary Artery
The LMCA is without significant disease.
* Left Anterior Descending
The LAD is with 100% proximal occlusion. There are left-to-left 
collaterals that fill back to the proximal vessel.
* Circumflex
The Circumflex is a large vessel without significant disease.
* Right Coronary Artery
The RCA is small and without significant disease.

Impressions:
- Successful PCI of the occluded LAD with bioabsorbable polymer 
drug-eluting stent
Recommendations:
- Aspirin 81 mg daily indefinitely
- Clopidogrel for minimum 3 months, ideally 12 months if no 
bleeding concerns
===
TTE (___):
The left atrium and right atrium are normal in cavity size. Left 
ventricular wall thicknesses and cavity size are normal. There 
is mild regional left ventricular systolic dysfunction with 
distal septal anad apical akinesis (distal LAD territory). The 
remaining segments contract normally (LVEF = 50-55%). Right 
ventricular chamber size and free wall motion are normal. The 
ascending aorta is mildly dilated. The number of aortic valve 
leaflets cannot be determined. There is no aortic valve 
stenosis. No aortic regurgitation is seen. The mitral valve 
appears structurally normal with trivial mitral regurgitation. 
The estimated pulmonary artery systolic pressure is normal. 
There is no pericardial effusion. 

IMPRESSION: Mild regional left ventricular systolic dysfunction, 
c/w CAD. 
===
Spleen ultrasound (___): 
Unremarkable sonographic appearance of the spleen, which 
measures 9.6 cm, within normal limits.

=================
DISCHARGE LABS
=================
___ 07:35AM BLOOD WBC-11.7* RBC-4.57* Hgb-14.3 Hct-41.2 
MCV-90 MCH-31.3 MCHC-34.7 RDW-13.0 RDWSD-42.7 Plt Ct-57*
___ 07:35AM BLOOD Glucose-95 UreaN-15 Creat-1.3* Na-138 
K-3.6 Cl-104 HCO3-24 AnGap-10
___ 07:35AM BLOOD Calcium-9.1 Phos-3.0 Mg-1.9
 
Brief Hospital Course:
Mr. ___ is a ___ y/o man with history of HTN, HLD, who presented 
with intermittent exertional chest pain and jaw pain, found to 
have NSTEMI, found to have 100% occlusion of LAD s/p DES. Also 
noted to have new thrombocytopenia likely secondary to ITP.

===================
ACTIVE ISSUES:
===================
# Coronary artery disease:
# NSTEMI: Patient presented with exertional chest and jaw pain 
that improved with rest. Troponin elevated to 0.04 with MB 10 
and TWI in V1-V4. Cardiac catheterization on ___ showed 
100% LAD occlusion now s/p DES. The patient was started on 
aspirin 81 mg daily and Plavix 75 mg daily. His home atenolol 
was switched to metoprolol succinate 25 mg daily. His home 
pravastatin was switched to atorvastatin 80 mg daily. TTE showed 
mild regional left ventricular systolic dysfunction with distal 
septal and apical akinesis (distal LAD territory) with LVEF = 
50-55%. 

# Thrombocytopenia: Patient noted on admission to have new 
thrombocytopenia to 58. Other cell lines within normal limits. 
No recent medication changes, although patient did report taking 
increased doses of ibuprofen in the last two weeks for muscle 
aching/restlessness. No recent heparin exposures. The patient 
was seen by hematology and ultimately his thrombocytopenia was 
thought to be secondary to ITP. Peripheral smear was without 
platelet clumping. HIV, hepatitis C, and hepatitis B negative. 
Immunoglobulins within normal limits. No splenomegaly on 
ultrasound. SPEP and flow cytometry pending and time of 
discharge. Platelets 57 on day of discharge.

===================
CHRONIC ISSUES:
===================
# CKD: Baseline creatinine ~1.3. Discharge creatinine 1.3.
# HTN: Stopped home atenolol and hydrochlorothiazide. Started 
metoprolol and lisiniprol.
# HLD: Stopped home pravastatin. Started atorvastatin as above.
# BPH: Stopped doxazosin as contraindicated in CAD
# Depression: Continued home nefazodone

=======================
TRANSITIONAL ISSUES:
=======================
- Discharge weight: 87.9 kg 
- Discharge creatinine: 1.3
- Discharge platelets: 57
-------
- New medications: Aspirin 81 mg daily, Plavix 75 mg daily, 
atorvastatin 80 mg daily, metoprolol 25 mg daily, lisinopril 2.5 
mg daily
- Stopped medications: Pravastatin, atenolol, 
hydrochlorothiazide, doxazosin
- FYI: drug interaction between atorvastatin and nefazodone; 
monitor while on concurrent therapy or consider switching to 
alternative antidepressant
-------
- Please check BMP at next PCP appointment to ensure stability 
of electrolytes and renal function after starting lisinopril
- Please check CBC at next PCP appointment to ensure stability 
of thrombocytopenia
- Patient will need to establish with a cardiologist and 
hematologist
- Patient should be referred to cardiac rehabilitation by 
cardiology when appropriate
- Patient noted to be Hepatitis B non-immune; consider 
re-immunization.
- SPEP and flow cytometry pending at discharge; please follow 
up.
- Communication: Wife ___, ___
- Code: Full
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 25 mg PO DAILY 
2. Doxazosin 4 mg PO HS 
3. Hydrochlorothiazide 12.5 mg PO DAILY 
4. Nefazodone 300 mg PO DAILY 
5. Pravastatin 20 mg PO QPM 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin [Adult Low Dose Aspirin] 81 mg 1 tablet(s) by mouth 
Daily Disp #*30 Tablet Refills:*3 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth Daily Disp #*30 
Tablet Refills:*1 
3.  Clopidogrel 75 mg PO DAILY to prevent stent thrombosis 
RX *clopidogrel 75 mg 1 tablet(s) by mouth Daily Disp #*30 
Tablet Refills:*3 
4.  Lisinopril 2.5 mg PO DAILY 
RX *lisinopril 2.5 mg 1 tablet(s) by mouth Daily Disp #*30 
Tablet Refills:*1 
5.  Metoprolol Succinate XL 50 mg PO DAILY 
RX *metoprolol succinate 50 mg 1 tablet(s) by mouth Daily Disp 
#*30 Tablet Refills:*1 
6.  Nefazodone 300 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
- Non-ST elevation myocardial infarction
- Coronary artery disease s/p DES to LAD

SECONDARY:
- Idiopathic thrombocytopenic purpura
- Hypertension
- Hyperlipidemia
- Benign prostatic hypertrophy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at the ___ 
___!

WHY WAS I IN THE HOSPITAL?
==========================
- You came to the hospital because you were having chest and jaw 
pain with exertion

WHAT HAPPENED IN THE HOSPITAL?
==============================
- You had a procedure to look at the blood vessels in your 
heart, which showed that one of your blood vessels was blocked
- You had a stent placed to open the artery
- You had an ultrasound of your heart, which showed that the 
squeezing function of the heart was nearly normal
- We adjusted your medications to protect your heart
- We also found that your platelets were low; you were seen by 
the hematologists for this
- We did not find a particular cause of the low platelets, and 
thought that it was caused by your immune system

WHAT SHOULD I DO WHEN I GO HOME?
================================
- It is very important to take your aspirin and clopidogrel 
(also known as Plavix) every day.  
- These two medications keep the stents in the vessels of the 
heart open and help reduce your risk of having a future heart 
attack.  
- If you stop these medications or miss ___ dose, you risk causing 
a blood clot forming in your heart stents, and you may die from 
a massive heart attack.  
- Please do not stop taking either medication without taking to 
your heart doctor.  

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Your ___ Healthcare Team
 
Followup Instructions:
___